US04990523
4-(Aminosulfonyl)benzoic acid ethyl ester
A slurry of 10.0 g (0.05 mole) of p-carboxybenzenesulfonamide in 200 ml of absolute ethanol was treated with 10 g of anhydrous hydrogen chloride and heated at reflux for 5 h to give, after crystallization from ethyl acetate/petroleum ether, 10.6 g (93%) of white powder, mp 102°-104° C.

reactant | p-carboxybenzenesulfonamide | 0.05 mole, 10.0 g | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N | C7H7NO4S
reactant | hydrogen chloride | 10 g | Cl | ClH
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(Aminosulfonyl)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)S(=O)(=O)N)=O | C9H11NO4S
